US03992539
Preparation of 3-Trifluoromethyl-6-carboxy-s-triazolo-[3,4-a]-isoquinoline: ##SPC5##
A solution of potassium hydroxide (2.8 g., 0.05 mol.) and 3-trifluoromethyl-6-methoxycarbonyl-s-triazolo-[3,4-a]-isoquinoline (14.8 g., 0.05 mol.) was allowed to reflux in 280 ml. of ethanol for 12 hours. Removal of the solvent provided a residue which was dissolved in water andfiltered. The aqueous filtrate was neutralized with 2N hydrochloric acid and the product, 9.7 g. (70%) was collected by filtration; m.p. 290°C. (dec.).

reactant | potassium hydroxide | 0.05 mol, 2.8 g | [OH-].[K+]
reactant | 3-trifluoromethyl-6-methoxycarbonyl-s-triazolo-[3,4-a]-isoquinoline | 0.05 mol, 14.8 g | FC(C1=NN=C2N1C=C(C1=CC=CC=C21)C(=O)OC)(F)F | C13H8F3N3O2
reactant | ethanol | C(C)O | C2H6O
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | water | O | H2O
product | 3-Trifluoromethyl-6-carboxy-s-triazolo-[3,4-a]-isoquinoline | FC(C1=NN=C2N1C=C(C1=CC=CC=C21)C(=O)O)(F)F | C12H6F3N3O2
